US03941803
In the manner given in Example 17, 2'-chloro-5-nitro-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone is treated with phthalimide and triphenylphosphine and finally with diethyl azodicarboxylate to give 2'-chloro-5-nitro-2-[2-phthalimidomethyl)imidazol-1-yl]benzophenone.

reactant | 2'-chloro-5-nitro-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NC=C1)CO)=O | C17H12ClN3O4
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
